US04463172
A solution of 4.4 g of NaBH4 in 250 ml of EtOH was added to a solution of 45 g of diphenylmethyl 7-(2-thienylacetamido)-2-methylene-3-acetoxymethylceph-3-em-4-carboxylate in 150 ml of tetrahydrofuran at 0° C., and the mixture was stirred for 7 minutes, followed by adding 15 ml of AcOH. After distilling off the solvent under reduced pressure, AcOEt and H2O were added to the residue to separate out the AcOEt layer. The AcOEt layer was washed with 5% aqueous NaHCO3 and saturated aqueous sodium chloride solution, and dried over Na2SO4 to distill off the AcOEt under reduced pressure. The residue was added on a column of silica gel, and the fractions eluted with CH2Cl2.AcOEt (10:1) were collected, followed by distilling off the solvent under reduced pressure, yielding 18.7 g (41%) of diphenylmethyl 7-(2-thienylacetamido)-2-methyl-3-acetoxymethylceph-2-em-4-carboxylate.

reactant | NaBH4 | 4.4 g | [BH4-].[Na+]
reactant | diphenylmethyl 7-(2-thienylacetamido)-2-methylene-3-acetoxymethylceph-3-em-4-carboxylate | 45 g | S1C(=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(C(S2)=C)COC(C)=O)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C30H26N2O6S2
reactant | AcOH | 15 ml | CC(=O)O | C2H4O2
solvent | EtOH | 250 ml | CCO | C2H6O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | diphenylmethyl 7-(2-thienylacetamido)-2-methyl-3-acetoxymethylceph-2-em-4-carboxylate | 18.7 g, 41% | S1C(=CC=C1)CC(=O)NC1[C@@H]2N(C(C(=C(S2)C)COC(C)=O)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C30H28N2O6S2
